US07759379B2
N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-isopropyl-phenyl]-2-chloro-acetamide
1.37 mg (3.89 mmol) 3-(3-amino-4-isopropyl-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione and 528 mg (4.08 mmol) Hünig's base were dissolved in 50 ml 1,2-dichloroethane. The mixture was cooled to −20° C. and treated with a solution of 439 mg (3.89 mmol) chloroacetylchlorid in 20 ml 1,2-dichloroethane. After stirring 1 h at 0° C., 25 ml ethanolic hydrochloric acid were added and the mixture evaporated to dryness. The raw material, containing huening's base hydrochloride was used without further purification.

reactant | 3-(3-amino-4-isopropyl-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione | 3.89 mmol, 1.37 mg | NC=1C=C(C=CC1C(C)C)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O | C20H24N4O2
reactant | Hünig's base | 4.08 mmol, 528 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetylchlorid | 3.89 mmol, 439 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-isopropyl-phenyl]-2-chloro-acetamide | CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(CCl)=O)C(C)C)=O)CC1=CC=NC=C1)C | C22H25ClN4O3
